US07915261B2
4-Nitrophenyl chloroformate (7.0 g) was added to a dichloromethane (100 ml) solution of methyl 5-hydroxynicotinate (5.3 g) and diisopropylethylamine (6.1 ml), followed by stirring at room temperature for 1 hour. The reaction liquid was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting solid was washed with EtOAc/hexane and dried under reduced pressure to obtain methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate (8.4 g).

reactant | 4-Nitrophenyl chloroformate | 7.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | methyl 5-hydroxynicotinate | 5.3 g | OC=1C=NC=C(C(=O)OC)C1 | C7H7NO3
reactant | diisopropylethylamine | 6.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate | 8.4 g | [N+](=O)([O-])C1=CC=C(OC(=O)OC=2C=NC=C(C(=O)OC)C2)C=C1 | C14H10N2O7
